US08440785B2
Synthesis of 1,2-bis(2-ethylhexyl)benzene
A dry 2 L 3-neck flask with attached reflux condenser and addition funnel, flushed with dry nitrogen, was charged with 1,2-dichlorobenzene (79.4 g, 540 mmol), Ni(dppp)Cl2 (3 g, 6 mmol), and 200 mL of dry Et2O. The addition funnel was charged with 2-ethylhexylmagnesium bromide (3M, 400 mL). The solution was cooled to 5° C. and the Grignard reagent was added dropwise to the reaction. After complete addition, the reaction was stirred at 5° C. for 30 min and then warmed to room temperature (RT). The reaction was then heated to reflux for 12 h. After cooling to RT, the reaction mixture was poured onto an ice/HCl (10%) solution and extracted with MTBE. The organic fractions were dried over anhydrous MgSO4 and then concentrated. The product was purified first by distillation followed by column chromatography with hexanes, and isolated as colorless oil (101 g, 62%).

reactant | 1,2-dichlorobenzene | 540 mmol, 79.4 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | 2-ethylhexylmagnesium bromide | 3M, 400 mL | C(C)C(C[Mg]Br)CCCC
catalyst | Ni(dppp)Cl2 | 6 mmol, 3 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 1,2-bis(2-ethylhexyl)benzene | 101 g, 62% | C(C)C(CC1=C(C=CC=C1)CC(CCCC)CC)CCCC | C22H38
